US06770662B2
2.4 ml (17 mmol) of triethylamine and 0.3 g of 5% palladium carbon were added to a solution having 3.4 g (8.0 mmol) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2,6-dichloro-4-trifluoromethylpyridine (compound No. 3) obtained in Synthesis Example 1 dissolved in 50 ml of methanol, followed by stirring under hydrogen atmosphere for 6.5 hours. The mixture was subjected to filtration, 50 ml of water was added thereto, and methanol was distilled off under reduced pressure. Extraction of ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product thus obtained was purified by silica gel column chromatography to obtain 1.7 g (yield 55%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine (compound No. 11; m.p. 110-112° C.) and 1.1 g (yield 37%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-4-trifluoromethylpyridine (compound No. 7; m.p. 59-62° C.).

reactant | triethylamine | 17 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2,6-dichloro-4-trifluoromethylpyridine | 8.0 mmol, 3.4 g | COC1=C(C(=O)C=2C(=NC(=CC2C(F)(F)F)Cl)Cl)C(=CC(=C1OC)OC)C | C17H14Cl2F3NO4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine | 1.7 g, yield 55% | COC1=C(C(=O)C=2C(=NC=CC2C(F)(F)F)Cl)C(=CC(=C1OC)OC)C | C17H15ClF3NO4
